US07977358B2
B] 5-Methyl-3-pyrimidin-5-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A mixture of N-[1-pyrimidin-5-yl-meth-(E)-ylidene]-N′-(3-trifluoromethoxy-phenyl)-hydrazine (215 mg, 0.76 mmol) and zinc chloride (208 mg, 1.52 mmol) in 2 ml ethyl acetoacetate was heated at 170° C. for 3 h and stirring was continued for 20 h at room temperature. Ethyl acetoacetate was distilled (Kugelrohr distillation, 90° C., 10-40 mbar) and the residue was purified by column chromatography (EtOAc:n-heptane 4:1) to afford the title compound as a yellow oil (89 mg, 30%). MS: 393.0 (MH+).

reactant | N-[1-pyrimidin-5-yl-meth-(E)-ylidene]-N′-(3-trifluoromethoxy-phenyl)-hydrazine | 0.76 mmol, 215 mg | N1=CN=CC(=C1)\C=N\NC1=CC(=CC=C1)OC(F)(F)F | C12H9F3N4O
reactant | ethyl acetoacetate | 2 ml | C(CC(=O)C)(=O)OCC | C6H10O3
catalyst | zinc chloride | 1.52 mmol, 208 mg | [Cl-].[Zn+2].[Cl-]
product | 5-Methyl-3-pyrimidin-5-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 89 mg, 30% | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)OC(F)(F)F)C=1C=NC=NC1 | C18H15F3N4O3
